US04242507
Tetrazolacetic acid (1.28 g) is suspended into chloroform and thereto is added triethylamine (1.40 ml) under ice-cooling to give a homogeneous solution. To the solution is added 1-(p-chlorobenzenesulfonyloxy)-6-chloro-1,2,3-benzotriazole (3.44 g), and the mixture is stirred at room temperature to precipitate clear crystals. After stirring overnight, to the mixture are added benzyl alcohol (1.55 ml) and triethylamine (1.4 ml), whereby the crystals dissolve with exotherm. After stirring at room temperature for 3 hours, chloroform is distilled off and to the resulting residue are added water and ethyl acetate. The ethyl acetate layer is washed with water, an aqueous sodium hydrogen carbonate, 1 N hydrochloric acid and a saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. After drying, the solvent is distilled off and the residue is allowed to stand. The resulting crystals are washed with ether and recrystallized from isopropyl alcohol to give benzyl tetrazolacetate (1.4 g), melting point: 72°-73° C.

reactant | Tetrazolacetic acid | 1.28 g | N1N=NN=C1CC(=O)O | C3H4N4O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 1-(p-chlorobenzenesulfonyloxy)-6-chloro-1,2,3-benzotriazole | 3.44 g | ClC1=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)Cl | C12H7Cl2N3O3S
solvent | triethylamine | 1.40 ml | C(C)N(CC)CC | C6H15N
product | benzyl tetrazolacetate | 1.4 g | N1N=NN=C1CC(=O)OCC1=CC=CC=C1 | C10H10N4O2
